US09163012B2
2-methyl-1-(3-phenylpyrrolidin-3-yl)propan-2-ol
To a solution of benzyl cyanide (11.7 g, 100 mmol) in anhydrous THF (100 mL) was added slowly the solution of LiHMDS in THF (1 M, 200 mL, 200 mmol) at −78° C. in a dry-ice/acetone bath. After addition, the mixture was warmed to rt, stirred for 1 h, cooled to −78° C., and added ethyl bromoacetate (32.9 g, 198 mmol) dropwise. After addition, the reaction mixture was stirred at rt overnight. When TLC showed that the benzyl cyanaide was consumed, the reaction mixture was quenched with satd aq NH4Cl (150 mL), and extracted with EtOAc (3×150 mL). The combined organic layers were washed with satd aq NaHCO3 (150 mL) and brine (150 mL), dried over Na2SO4, and concentrated to give the crude final product, which was purified by chromatography on a silica gel column eluted with PE/EtOAc=50:1-10:1 to give diethyl 3-cyano-3-phenylpentanedioate (10.6 g, yield 37%) as brown oil. 1H NMR (CDCl3 400 MHz): δ 7.45 (d, 2H), 7.37 (t, 2H), 7.28 (t, 1H), 4.06 (q, 4H), 3.2 (m, 4H), 1.12 (t, 6H).

reactant | benzyl cyanide | 100 mmol, 11.7 g | C(C1=CC=CC=C1)C#N | C8H7N
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | ethyl bromoacetate | 198 mmol, 32.9 g | BrCC(=O)OCC | C4H7BrO2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mmol, 1 M, 200 mL | C1CCOC1 | C4H8O
product | diethyl 3-cyano-3-phenylpentanedioate | 10.6 g, yield 37% | C(#N)C(CC(=O)OCC)(CC(=O)OCC)C1=CC=CC=C1 | C16H19NO4
